US05352701
A solution of 5.6g of 5-(3,4-dihydroxyphenyl)-5-oxopentanoic acid in 300 ml of methanol is stirred together with 15g of Amberlyst 15 for 16 hours at room temperature. The reaction mixture is filtered on diatomaceous earth, concentrated by evaporation and the residue is chromatographed on silica gel with hexane/ethyl acetate (20-60%). 3.7 g of 5-(3,4-dihydroxyphenyl)-5-oxo-pentanoic acid methyl ester of melting point 104°-106° C. is obtained.

reactant | 5-(3,4-dihydroxyphenyl)-5-oxopentanoic acid | 5.6g | OC=1C=C(C=CC1O)C(CCCC(=O)O)=O | C11H12O5
reactant | methanol | 300 ml | CO | CH4O
product | 5-(3,4-dihydroxyphenyl)-5-oxo-pentanoic acid methyl ester | 3.7 g | COC(CCCC(=O)C1=CC(=C(C=C1)O)O)=O | C12H14O5
